US05958942
4,5-Dihydro-3H-1,4,8b-triazaacenaphthylene-3-one-hydrochloride
To a solution of 95.7 mg (0.35 mmol) of 4,5-dihydro-4-(tert-butoxycarbonyl)-3H-1,4,8b-triazaacenaphthylen-3-one in 100 ml of ethanol was added 0.09 ml (1.05 mmol) of 12N HCl. The mixture was stirred for one hour at room temperature. The resulting crystalline precipitates were collected by filtration, washed with a small volume of ethanol and ether and dried to give 56.1 mg of the desired compound (76.4%, white solid).

reactant | 4,5-dihydro-4-(tert-butoxycarbonyl)-3H-1,4,8b-triazaacenaphthylen-3-one | 0.35 mmol, 95.7 mg | C(C)(C)(C)OC(=O)N1C(C2=CN=C3C=CC=C(C1)N32)=O | C14H15N3O3
reactant | HCl | 1.05 mmol, 12N, 0.09 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4,5-Dihydro-3H-1,4,8b-triazaacenaphthylene-3-one-hydrochloride | 56.1 mg, 76.4% | Cl.N=1C=C2C(NCC3=CC=CC1N23)=O | InChI=1S/C9H7N3O.ClH/c13-9-7-5-10-8-3-1-2-6(4-11-9)12(7)8;/h1-3,5H,4H2,(H,11,13);1H
